US09216980B2
Step 1: 4-Methoxy-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperidine
A degassed mixture of 1-(4-bromobenzyl)-4-methoxypiperidine (0.90 g, 3.18 mmol), bis(pinacolato)diborane (0.89 g, 3.5 mmol), 1,1′-[bis(diphenyl phosphino)ferrocene]dichloropalladium(II) (0.13 g, 0.16 mmol) and potassium acetate (0.94 g, 9.5 mmol) in 1,4-dioxane (16 mL) was heated under microwave irradiation at 150° C. for 30 minutes. The cooled reaction mixture was partitioned between ethyl acetate and water, the organic phase was separated, dried over sodium sulfate, filtered through celite and evaporated to afford the title compound as a brown oil (1.07 g) which was used without further purification. 1H NMR (CDCl3, 300 MHz): 7.78 (d, J=7.5 Hz, 2H), 7.38 (d, J=7.5 Hz, 2H), 3.71 (s, 2H), 3.64 (br s, 1H), 3.31 (s, 3H), 2.83-2.71 (m, 2H), 2.34 (br s, 2H), 1.98 (br s, 2H), 1.69 (br s, 2H), 1.34 (s, 12H). LCMS (Method G): RT=3.00 min, M+H+=332.

reactant | 1-(4-bromobenzyl)-4-methoxypiperidine | 3.18 mmol, 0.90 g | BrC1=CC=C(CN2CCC(CC2)OC)C=C1 | C13H18BrNO
reactant | bis(pinacolato)diborane | 3.5 mmol, 0.89 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 9.5 mmol, 0.94 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 16 mL | O1CCOCC1 | C4H8O2
product | 4-Methoxy-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperidine | 1.07 g | COC1CCN(CC1)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H30BNO3
